Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
omeprazole / hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ with a PMH pertinent for multifocal
pT1cN0Mx non-small cell carcinoma of the lung s/p RUL lobectomy,
RLL wedge resection, mediastinal LNB and recent LUL ___ ablation 
4
days ago who presents with progressive exertional dyspnea and
increasing L PTX. She did have a known small L PTX immediately
following her ablation on ___, which was followed for several
hours in the hospital with serial CXRs. As it was stable on
repeat imaging, she was discharged at that time. She initially
did well at home, however has since developed progressive
exertional dyspnea, going from being able to walk to her
neighbor's house to being unable to walk across her own house.
She denies fevers, chills, sweats, presyncope, nausea, dysuria,
constipation and diarrhea. She initially presented to ___
where a CXR showed a slightly increased interval PTX, and given
the apparent absence of a thoracic surgery consultant, was
transferred to ___. Here she was found to be hemodynamically
appropriate with 94% SaO2 on RA. Regarding her underlying
malignant disease, she is reportedly being treated under the
assumption of 4 synchronous primary lung tumors - 2 in the RUL
and 1 in the RLL since resected, and 1 in the LUL s/p ___
ablation. 

 
Past Medical History:
PAST MEDICAL HISTORY:
Multifocal pT1cN0Mx non-small cell lung cancer s/p RULobectomy,
RLL wedge, mediastinal LND and LUL ___ ablation
HTN
HLD
GERD
  
PAST SURGICAL HISTORY:
- RUL lobectomy, RLL wedge resection and mediastinal lymph node
dissection ___, ___
- LUL percutaneous ablation (___)

 
Social History:
___
Family History:
Brother - Lung cancer
Sister - ___ cancer
Multiple family members - anemia

 
Physical ___:
VS:  97.5  87  142/96  16  94%RA
GEN: NAD, well-nourished, appropriately groomed.
NEURO: AOx3, CN II-XII grossly intact
HEENT: Sclerae anicteric, trachea midline, no JVD
CV: RRR, 2+ peripheral pulses bilaterally  
RESP: Decreased breath sounds over the R lower lung fields, no
respiratory distress
GI: Abdomen soft, non-tender and non-distended. No rebound
tenderness or guarding.
EXT: WWP no CCE

 
Pertinent Results:
___ CXR :
1. Small to moderate left apical pneumothorax is unchanged 
compared to the 
chest radiograph from ___, but is slightly worsened 
compared to the study from ___. 
2. Opacities in the left upper lobe likely represent post 
ablation appearance, unchanged. 
3. Small left pleural effusion, unchanged. 
4. Postsurgical changes in the right lung, unchanged. 

___ CXR :
1. Mild interval improvement of small left apical pneumothorax. 
2. Opacities in the left upper lobe likely represent post 
ablation appearance, unchanged. 
3. Small left pleural effusion, unchanged. 
4. Moderate hiatal hernia. 

___ CXR :
1. Overall improvement of left pneumothorax with stable 
appearance of left 
apical pneumothorax. Improvement of left pleural effusion. 
2. Increased size of post ablation artifact, suggesting possible 
edema or 
bleeding. 
3. Hiatal hernia. 

 
Brief Hospital Course:
Ms. ___ was evaluated by the Thoracic Surgery service in 
the Emergency Room and admitted to the hospital for observation 
of her left apical pneumothorax. Serial chest xrays showed a 
decrease in the left pneumothorax, a small left pleural effusion 
and progressive opacities over the ablation site.  She was 
placed on 100% NRB for short periods to help resorb the 
pneumothorax but was also ambulating on room air with 
saturations of 92-95%.  She had an occasional spasm over the 
ablation site which required no treatment although Tylenol was 
recommended if needed.  She remained afebrile and her telemetry 
was NSR without any ectopy.  

The ___ team recommended treating her with a Medrol dose pack for 
a presumed pneumonitis post procedure and will review those 
recommendations with Dr. ___. As she continues to improve 
and her pneumothorax is smaller each day, she was discharged 
home on ___ and will follow up in ___ with Dr. ___ 
week. She was given a prescription for  Medrol dose pack which 
she will fill once she hears from dr. ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO DAILY 
2. Pravastatin 20 mg PO QPM 
3. Verapamil SR 180 mg PO Q24H 
4. Cetirizine 10 mg PO DAILY 
5. Vitamin D 800 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Cetirizine 10 mg PO DAILY  
3.  Famotidine 20 mg PO DAILY  
4.  Pravastatin 20 mg PO QPM  
5.  Verapamil SR 180 mg PO Q24H  
6.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital with notable shortness of 
breath following your ablation. Your chest xray showed a small 
left pneumothorax which has improved daily.

* You will be discharged home today with a prescription for a 
steroid dose pack which was recommended by the Interventional 
Radiology doctors. As soon as we contact Dr. ___ will 
call you with her opinion on taking the steroids.

* Continue all of your pre admission medications and take 
Tylenol for any discomfort you may have.

* You can drive as long as you feel comfortable behind the wheel 
and with your seatbelt on.

* If you develop any increased shortness of breath, similar to 
the symptoms that brought you to the hospital, please go to the 
nearest Emergency Room for a chest xray and call Dr. ___.

* Continue to eat well and stay well hydrated. Weigh yourself 
weekly.

* Call Dr. ___ at ___ if you have any chest pain, 
shortness of breath or any new symptoms that concern you.
 
Followup Instructions:
___